US05840732
i) Synthesis of 2 -amino-3-(3-chloropropyloxy)pyridine
To a suspension of 48.7 ml (200 mmol) of a 4.1M sodium methoxide solution in 100 ml of dimethyl sulfoxide, 22.03 g (200 mmol) of 2-amino-3-hydroxypyridine was added at room temperature, followed by stirring at 80° C. for 10 minutes to dissolve the latter. After the reaction mixture was cooled, the methanol was distilled off. To this mixture, 19.8 ml (200 mmol) of 1-bromo-3-chloropropane was added at 0° C., followed by stirring for 30 minutes. The reaction mixture was poured into water (400 ml), extracted with chloroform, washed with2N aqueous sodium hydroxide and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent, n-hexane/ethyl acetate=1/4→ethyl acetate). The obtained crude crystal was washed with diethyl ether-n-hexane to yield 20.48 g (54.8%, white powder) of the desired product.

reactant | sodium methoxide | 4.1M | C[O-].[Na+]
reactant | 2-amino-3-hydroxypyridine | 200 mmol, 22.03 g | NC1=NC=CC=C1O | C5H6N2O
reactant | 1-bromo-3-chloropropane | 200 mmol, 19.8 ml | BrCCCCl | C3H6BrCl
reactant | water | 400 ml | O | H2O
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 2 -amino-3-(3-chloropropyloxy)pyridine | NC1=NC=CC=C1OCCCCl | C8H11ClN2O
